data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cccc(F)c1)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(F)c1)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(F)c1)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cccc(F)c1)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cccc(F)c1)C2(C)C", "products": "C[C+]1C2(c3cccc(F)c3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cccc(F)c3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cccc(F)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(F)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(F)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(F)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cccc(F)c2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cccc(F)c2)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cccc(F)c3)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cccc(F)c3)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cccc(F)c3)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)cc1C.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1C"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1C", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1C.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1C", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2C)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2C)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)cc1C"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)cc1C", "products": "COc1cc2c(cc1C)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(cc1C)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(cc1C)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(cc1C)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(cc1C)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(cc1C)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2cc1C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1c(Cl)ccc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "Cc1c(Cl)ccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "Cc1c(Cl)ccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "Cc1c(Cl)ccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1c(Cl)ccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1c(Cl)ccc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(N(C)C(=O)C2=CCCC2)c(Br)c1OC.[Pd]", "products": "COc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1OC"}, {"reactants": "COc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1OC", "products": "COc1ccc2c(c1OC)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1ccc2c(c1OC)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1ccc2c(c1OC)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Pt]0"}], "steps": [{"reactants": "[Pt].CC1(C)C(C)(C)OB(B2OC(C)(C)C(C)(C)O2)O1", "products": "CC1(C)C(C)(C)OB([Pt]B2OC(C)(C)C(C)(C)O2)O1"}, {"reactants": "CC1(C)C(C)(C)OB([Pt]B2OC(C)(C)C(C)(C)O2)O1.CC#Cc1ccccc1", "products": "CC1=C(c2ccccc2)[Pt]1(B3OC(C)(C)C(C)(C)O3)B4OC(C)(C)C(C)(C)O4"}, {"reactants": "CC1=C(c2ccccc2)[Pt]1(B3OC(C)(C)C(C)(C)O3)B4OC(C)(C)C(C)(C)O4", "products": "CC1(C)C(C)(C)OB(/C(C)=C(/c2ccccc2)[Pt]B3OC(C)(C)C(C)(C)O3)O1"}, {"reactants": "CC1(C)C(C)(C)OB(/C(C)=C(/c2ccccc2)[Pt]B3OC(C)(C)C(C)(C)O3)O1", "products": "CC1(C)C(C)(C)OB(/C(C)=C(/c2ccccc2)B3OC(C)(C)C(C)(C)O3)O1.[Pt]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)cc1Cl.[H+]", "products": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1Cl"}, {"reactants": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1Cl", "products": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1Cl.O"}, {"reactants": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1Cl", "products": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1Cl"}, {"reactants": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1Cl", "products": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)cc1Cl"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)cc1Cl.O", "products": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)cc1Cl"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)cc1Cl", "products": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1Cl"}, {"reactants": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1Cl", "products": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1Cl"}, {"reactants": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1Cl", "products": "COc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)cc1Cl.[H+]"}]}
